US09238640B2
A solution of crude 4-acetylamino-3-[4-(tetrahydro-pyran-2-yloxy)-but-1-ynyl]-benzoic acid methyl ester (33.4 g, approximately 65 mmol) in anhydrous THF (300 mL) was mixed with a 1.0 M solution of tetrabutylammonium fluoride in THF (110 mL, 110 mmol); the reaction mixture was stirred at 90° C. for 4 hours under nitrogen, and then cooled to room temperature. Solvent was evaporated and the residue was taken in ethyl acetate (300 mL). The organic phase was washed with water (300 mL), brine (200 mL), and dried over anhydrous Na2SO4. The solvent was evaporated and the crude compound was purified by column chromatography on silica gel, eluting with hexanes and ethyl acetate (3:1), to give 2-[2-(tetrahydro-pyran-2-yloxy)-ethyl]-1H-indole-5-carboxylic acid methyl ester. Yield: 14.9 g (76%).

reactant | 4-acetylamino-3-[4-(tetrahydro-pyran-2-yloxy)-but-1-ynyl]-benzoic acid methyl ester | approximately 65 mmol, 33.4 g | COC(C1=CC(=C(C=C1)NC(C)=O)C#CCCOC1OCCCC1)=O | C19H23NO5
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 110 mmol, 110 mL | C1CCOC1 | C4H8O
product | 2-[2-(tetrahydro-pyran-2-yloxy)-ethyl]-1H-indole-5-carboxylic acid methyl ester | COC(=O)C=1C=C2C=C(NC2=CC1)CCOC1OCCCC1 | C17H21NO4
